US08629150B2
To a solution of tert-butyl 4-((6-chloro-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzoate (210 mg, 0.52 mmol), and Hunig's Base (0.18 mL, 1.04 mmol) in THF (3 mL) was added 4-(aminomethyl)phenol (96 mg, 0.78 mmol). The resulting mixture was refluxed for 1 hour. After cooling to rt, the solvent was removed and the crude product was purified by silica gel chromatography using 20-40% EtOAc/Hexanes to give tert-butyl 4-((6-((4-hydroxybenzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzoate (117 mg, 46%) as white solid.

reactant | tert-butyl 4-((6-chloro-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzoate | 0.52 mmol, 210 mg | ClC1=CC(=NC(=N1)OCC(F)(F)F)NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C17H17ClF3N3O3
reactant | Hunig's Base | 1.04 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(aminomethyl)phenol | 0.78 mmol, 96 mg | NCC1=CC=C(C=C1)O | C7H9NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-((6-((4-hydroxybenzyl)amino)-2-(2,2,2-trifluoroethoxy)pyrimidin-4-yl)amino)benzoate | 117 mg, 46% | OC1=CC=C(CNC2=CC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1 | C24H25F3N4O4
